* C:\LocalProject\301MotorCar\LTspice hardware\Compsys305.asc
V1 N001 0 5
C1 Vfiltered N002 150nf
R2 Vfiltered 0 100k
R1 N002 0 50k
I1 N001 N002 SINE(88uA 2uA 100)
V2 V5 0 5
R3 V5 V_1volt 40k
R4 V_1volt 0 10k
XU2 N003 V_1volt V5 0 Vsch LM324
R9 N003 Vsin 10K
R10 Vsch N003 160K
V3 Vsin 0 SINE(0 1.27 100)
C2 Vdc 0 150nf
R5 Vdc Vsch 100k
XU1 N004 V_1volt V5 0 Vout LM324
R6 N004 Vdc 100k
R7 Vout N004 100k
R8 V5 GPIO 1k
.tran 0 1 0 0.1ms
* Phototransistor Circuit & Filter circuit
* Voltage Divder Circuit
.lib LM324.lib
* Schmitt trigger
* RC filter to convert PWM wave into DC wave
* DC wave to digital Output
* open drain configuration
.backanno
.end
